US07589232B2
Step) a) Formation of methyl 4-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]benzoate
The titled compound was prepared following the procedure A using methyl 4-(aminomethyl)benzoate hydrochloride and 4-[(4-butylphenyl)ethynyl]benzaldehyde as a white solid (54%). 1H NMR (CDCl3, 300 MHz) δ 8.02 (d, J=8.3 Hz, 2H), 7.51 (d, J=7.9 Hz, 2H), 7.44 (m, 4H), 7.33 (d, J=7.9 Hz, 2H), 7.17 (d, J=7.9 Hz, 2H), 3.92 (s, 3H), 3.87 (s, 2H), 3.82 (s, 2H), 2.63 (t, J=7.7 Hz, 2H), 1.61 (m, 2H), 1.37 (m, 2H), 0.94 (t, J=7.3 Hz, 3H). M+ (ESI): 412.4. HPLC, Rt: 4.28 min (Purity: 99.4%).

reactant | methyl 4-(aminomethyl)benzoate hydrochloride | Cl.NCC1=CC=C(C(=O)OC)C=C1
reactant | 4-[(4-butylphenyl)ethynyl]benzaldehyde | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(C=O)C=C1 | C19H18O
product | methyl 4-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]benzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNCC2=CC=C(C(=O)OC)C=C2)C=C1 | C28H29NO2
